* C:\Users\Artem\Desktop\ANALOG\LAB2\Draft2.asc
V1 N001 0 SINE(0 5 50)
D1 N001 N002 1N914
C1 N002 0 10µ
R1 N002 0 5k
.model D D
.lib C:\Users\Artem\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100m
.backanno
.end
